US07282588B2
4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-N-[2-(4-morpholinyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxamide
Following the procedure described in Example 15a using 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid and 4-(2-aminoethyl)-morpholine afforded the title compound. ESMS [M+H]+: 490.4

reactant | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C(=O)O)C2=CC=C(C=C2)[N+](=O)[O-] | C19H15N5O4
reactant | 4-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
product | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-N-[2-(4-morpholinyl)ethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C(=O)NCCN2CCOCC2)C2=CC=C(C=C2)[N+](=O)[O-] | C25H27N7O4
